US05922648
9.3 g (0.11 mol) of cyclopentanone and 13.5 g (0.11 mol) of methyl 2-chloropropionate are cooled to 0 to 2° C.; at this temperature, 13.6 g (0.12 mol) of potassium tert-butylate suspended in 200 ml of tetrahydrofuran are added slowly dropwise with stirring over a period of about 90 minutes, after which the mixture is stirred for a further 60 minutes without cooling. A little water is added to the reaction mixture, which is subjected to extraction with diethyl ether; the organic phase is dried over sodium sulfate, the drying agent is filtered off, and evaporation of the solvent gives 10.6 g of methyl 2-methyl-1-oxaspiro[2.4]heptane-2-carboxylate, which can be employed without further purification in the subsequent stage (see b).

reactant | cyclopentanone | 0.11 mol, 9.3 g | C1(CCCC1)=O | C5H8O
reactant | methyl 2-chloropropionate | 0.11 mol, 13.5 g | ClC(C(=O)OC)C | C4H7ClO2
reactant | potassium tert-butylate | 0.12 mol, 13.6 g | CC(C)(C)[O-].[K+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | methyl 2-methyl-1-oxaspiro[2.4]heptane-2-carboxylate | 10.6 g | CC1(OC12CCCC2)C(=O)OC | C9H14O3
